US06051358
Preparation of 2,6-bis(2,4-dihydroxybenzyl)-p-cresol
To a 5 L 3-necked flask equipped with a reflux condenser was added 2.1 L of methanol, 754 g of resorcinol, 215 g of 2,6-bis(hydroxymethyl)-p-cresol and 4.38 g of p-toluenesulfonic acid monohydrate. The solution was then heated to and kept at reflux for 20 hours. A distillation head was added to the flask and 1.1 L of methanol removed by distillation over a one hour period. The reaction mixture was then slowly added over a 30 minute period using an addition funnel into 20 L of de-mineralized water. The precipitate was slurried for one hour and then collected using a Buchner funnel. The crude product was added to 6 L de-mineralized water, heated to 85-87° C. and slurried for 20 minutes at this temperature. The suspension was vacuum filtered while at 85° C. and the filtrate allowed to cool to ambient temperature overnight. The filtrant was again extracted with 3.0 L of de-mineralized water for 20 minutes at 85° C., the mixture was vacuum filtered and cooled. The precipitates from the filtrates were collected on a Buchner and vacuum oven dried at 100° C. A combined yield of 158 g was obtained having a purity of about 91 % as determined by HPLC analysis.

reactant | resorcinol | 754 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2,6-bis(hydroxymethyl)-p-cresol | 215 g | OCC1=CC(=CC(=C1O)CO)C | C9H12O3
reactant | p-toluenesulfonic acid monohydrate | 4.38 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methanol | 1.1 L | CO | CH4O
reactant | methanol | 2.1 L | CO | CH4O
product | 2,6-bis(2,4-dihydroxybenzyl)-p-cresol | OC1=C(CC2=CC(=CC(=C2O)CC2=C(C=C(C=C2)O)O)C)C=CC(=C1)O | C21H20O5
